US08957070B2
2-{4-Methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylic acid
Ethyl 2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate (0.40 g) was dissolved in a mixed solution of tetrahydrofuran (15 mL) and methanol (15 mL), aqueous solution (5 mL) of 85% potassium hydroxide (0.20 g) was added, and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (368 mg, yield 98%) as pale-yellow crystals. MS:434 (MH+).

reactant | Ethyl 2-{4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate | 0.40 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC=C(N1)C(=O)OCC | C20H19N3O4S3
reactant | potassium hydroxide | 5 mL, 0.20 g | [OH-].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{4-Methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylic acid | 368 mg, yield 98% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC=C(N1)C(=O)O | C18H15N3O4S3
